US06180637B2
2-(2-Hydroxy-5-nitrobenzyl)-5-methoxy-1-(4-methoxybenzenesulphonyl)-1,2-dihydroindazol-3-one
5.01 g (15 mmol) of 5-methoxy-1H-indazol-3-yl 4-methoxybenzenesulphonate are dissolved in 70 ml of DMSO and treated in portions with 1.5 g (37.5 mmol) of sodium hydride (60 percent). After stirring for 2 hours, a solution of 2.81 g (15 mmol) of 2-hydroxy-5-nitrobenzyl chloride in 25 ml of DMSO is added dropwise and the mixture is stirred at 90-100° C. for 3 hours. After cooling, 400 ml of water are added, and the mixture is stirred for 3 hours and extracted three times with 400 ml of ethyl acetate. The combined organic phases are washed with 100 ml of water, dried over sodium sulphate, distilled to dryness in vacuo and the residue is recrystallized from ethanol.

reactant | 5-methoxy-1H-indazol-3-yl 4-methoxybenzenesulphonate | 15 mmol, 5.01 g | COC1=CC=C(C=C1)S(=O)(=O)OC1=NNC2=CC=C(C=C12)OC | C15H14N2O5S
reactant | sodium hydride | 37.5 mmol, 1.5 g | [H-].[Na+]
reactant | 2-hydroxy-5-nitrobenzyl chloride | 15 mmol, 2.81 g | OC1=C(CCl)C=C(C=C1)[N+](=O)[O-] | C7H6ClNO3
reactant | water | 400 ml | O | H2O
reactant | DMSO | 70 ml | CS(=O)C | C2H6OS
reactant | DMSO | 25 ml | CS(=O)C | C2H6OS
product | 2-(2-Hydroxy-5-nitrobenzyl)-5-methoxy-1-(4-methoxybenzenesulphonyl)-1,2-dihydroindazol-3-one | OC1=C(CN2N(C3=CC=C(C=C3C2=O)OC)S(=O)(=O)C2=CC=C(C=C2)OC)C=C(C=C1)[N+](=O)[O-] | C22H19N3O8S
